US05756545
To a stirred solution of 4-bromobiphenyl (50 g, 0.21 mol) in chloroform (200 mL) was added dropwise at room temperature chlorosulfonic acid (32.5 g, 0.28 mol). The solution was stirred at room temperature for 16 hours, then diluted with hexanes (200 mL). The precipitate was collected by filtration and washed with hexanes to give 4'-bromobiphenyl-4-sulfonic acid (52.3 g, 79%) as a white solid. The crude product was used in the next step without further characterization.

reactant | 4-bromobiphenyl | 0.21 mol, 50 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | chlorosulfonic acid | 0.28 mol, 32.5 g | ClS(=O)(=O)O | ClHO3S
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4'-bromobiphenyl-4-sulfonic acid | 52.3 g, 79% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)O | C12H9BrO3S
